US07166621B2
5,6-Dichloropyridin-3-ol was reacted with 2-bromo-N-(4methylpent-2-yn-4-yl)butyramide in a similar procedure to that described in Example 10, Stage 2 to give 2-(5,6-dichloro-3-pyridyloxy)-N-(4methylpent-2-yn-4-yl)butyramide, gum.

reactant | 5,6-Dichloropyridin-3-ol | ClC=1C=C(C=NC1Cl)O | C5H3Cl2NO
reactant | 2-bromo-N-(4methylpent-2-yn-4-yl)butyramide | BrC(C(=O)NC(C#CC)(C)C)CC | C10H16BrNO
product | 2-(5,6-dichloro-3-pyridyloxy)-N-(4methylpent-2-yn-4-yl)butyramide | ClC=1C=C(C=NC1Cl)OC(C(=O)NC(C#CC)(C)C)CC | C15H18Cl2N2O2
